US05866560
A solution of 60.4 g of 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one in 300 ml of pyridine is stirred with 150 ml of acetic anhydride for 1 hour at room temperature. Then, it is precipitated with a mixture of ice/water/common salt/hydrochloric acid, taken up with ethyl acetate, washed neutral with sodium bicarbonate and common salt solution, and dried on sodium sulfate and concentrated by evaporation in a vacuum. 63.9 g of 3-acetoxy-7α-(5-acetoxypentyl)-estra-1,3,5(10)-trien-17-one is obtained as oil.

reactant | 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one | 60.4 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)=O | C25H34O4
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-7α-(5-acetoxypentyl)-estra-1,3,5(10)-trien-17-one | 63.9 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCOC(C)=O | C27H36O5
